US07632829B2
(rac)-6-Methyl-[1,4]diazepan-5-one hydrochloride
6-Methyl-5-oxo-[1,4]diazepane-1-carboxylic acid tert-butyl ester (42 mg, 0.18 mmol) was suspended in hydrogen chloride solution (4 M in 1,4-dioxane, 0.5 ml) and stirred at room temperature for 4 h, then volatile material was removed by distillation, to afford the title compound (29 mg, 96%). Colorless gum, MS: 129.1 ([M−Cl]+).

reactant | 6-Methyl-5-oxo-[1,4]diazepane-1-carboxylic acid tert-butyl ester | 0.18 mmol, 42 mg | C(C)(C)(C)OC(=O)N1CCNC(C(C1)C)=O | C11H20N2O3
reactant | hydrogen chloride | 4 M, 0.5 ml | Cl | ClH
product | (rac)-6-Methyl-[1,4]diazepan-5-one hydrochloride | 29 mg, 96% | Cl.CC1C(NCCNC1)=O | InChI=1S/C6H12N2O.ClH/c1-5-4-7-2-3-8-6(5)9;/h5,7H,2-4H2,1H3,(H,8,9);1H
